US05157124
Sodium hydride (1.2 g of 50% in oil) was added at 0° C. to a stirred solution of 1-(1-methyl-2-propynyl)-2-imidazolidinone (2.1 g) in dry THF (50 mL). After 15 min methyl iodide (3.0 mL) was added and the solution was stirred for an additional 30 min. Acetic acid (0.6 mL) and methanol (3 mL) were added and the solvent was removed under reduced pressure and the residual oil was partitioned between ethyl acetate and sodium hydroxide (10 mL of 2N). The ethyl acetate was removed and the crude product was chromatographed on silica gel to give 2.5 g of 1-methyl-3-(1-methyl-2-propynyl)-2-imidazolidinone as an oil.

reactant | Sodium hydride | 1.2 g | [H-].[Na+]
reactant | 1-(1-methyl-2-propynyl)-2-imidazolidinone | 2.1 g | CC(C#C)N1C(NCC1)=O | C7H10N2O
reactant | methyl iodide | 3.0 mL | CI | CH3I
reactant | Acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | methanol | 3 mL | CO | CH4O
product | 1-methyl-3-(1-methyl-2-propynyl)-2-imidazolidinone | 2.5 g | CN1C(N(CC1)C(C#C)C)=O | C8H12N2O
